US06800648B2
8-Aminomethyl-7,8-dihydro-3H-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-2-one
(8S)-8-(Azidomethyl)-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-2(3H)-one (2.86 g, 11.5 mmole) in methanol (60 mL) was treated for 24 hours on a Parr shaker with 60 psi of hydrogen in the presence of 0.43 g of 10% Pd/C and 3.0 mL of 4 N isopropanolic HCl. The catalyst was removed by filtration through celite and was washed with additional methanol. The filtrate was evaporated in vacuum to give 2.12 g (68%) of the (S)-enantiomer of the title compound as a beige solid, m.p.>250° C.

reactant | (8S)-8-(Azidomethyl)-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-2(3H)-one | 11.5 mmole, 2.86 g | N(=[N+]=[N-])C[C@@H]1OC2=C(C=CC=3NC(OC32)=O)OC1 | C10H8N4O4
reactant | hydrogen | [H][H] | H2
reactant | HCl | 4 N, 3.0 mL | Cl | ClH
solvent | methanol | 60 mL | CO | CH4O
catalyst | Pd/C | 0.43 g | [Pd] | Pd
product | 8-Aminomethyl-7,8-dihydro-3H-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-2-one | NCC1COC2=CC=C3C(=C2O1)OC(N3)=O | C10H10N2O4
